US04927968
1-Amino-2-[3-(3-hydroxymethylphenoxy)propylamino]-1-cyclobutene-3,4-dione
A suspension of 1-amino-2-[3-(3-formylphenoxy)propylamino]-1-cyclobutene-3,4-dione (2.09 g, 7.29 mmoles), piperidine (0.8 mL, 690 mg, 8.1 mmoles) and 200 mg of 10% Pd/C in 300 mL of 95% ethanol was shaken on a Parr hydrogenator at 50 psi for 4 hours. To the resultant mixture with stirring was added 8.3 mL of aqueous 1.0N HCl and 25 mL of water. The reaction mixture was filtered through diatomaceous earth and the filtrate was evaporated under reduced pressure. The solid residue was treated with acetone and allowed to stand at 0° C. for 18 hours. The mixture was filtered and the solid dried to give 1.437 g of product containing a small amount of starting aldehyde; mp=207°-212° C.

reactant | 1-amino-2-[3-(3-formylphenoxy)propylamino]-1-cyclobutene-3,4-dione | 7.29 mmoles, 2.09 g | NC1=C(C(C1=O)=O)NCCCOC1=CC(=CC=C1)C=O | C14H14N2O4
reactant | piperidine | 8.1 mmoles, 0.8 mL, 690 mg | N1CCCCC1 | C5H11N
reactant | HCl | 1.0N | Cl | ClH
reactant | water | 25 mL | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 1-Amino-2-[3-(3-hydroxymethylphenoxy)propylamino]-1-cyclobutene-3,4-dione | 1.437 g | NC1=C(C(C1=O)=O)NCCCOC1=CC(=CC=C1)CO | C14H16N2O4
